US06528525B1
(f) Ethyl 3-[4-(2-hydroxyethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate
In a similar manner to that described in Reference example 3(f), a reaction was carried out using ethyl 2-methyl-2-(3-phenylpropyl)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate (1.64 g), which is the product of Reference example 7(e), and p-toluenesulfonic acid monohydrate (0.68 g) and the reaction mixture was treated to afford the desired compound (0.95 g) as a syrup.

reactant | ethyl 2-methyl-2-(3-phenylpropyl)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 1.64 g | CC(C(=O)OCC)(CC1=CC=C(C=C1)OCCOC1OCCCC1)CCCC1=CC=CC=C1 | C28H38O5
reactant | p-toluenesulfonic acid monohydrate | 0.68 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 3-[4-(2-hydroxyethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate | 0.95 g | OCCOC1=CC=C(C=C1)CC(C(=O)OCC)(CCCC1=CC=CC=C1)C | C23H30O4
